US07585885B2
N-{(1S,2R)-1-(3,5-Difluoro-benzyl)-2-hydroxy-2-[(2R,4R)-4-(3-hydroxy-3-methyl-butoxy)-pyrrolidin-2-yl]-ethyl}-acetamide hydrochloride
Add 4M hydrogen chloride in dioxane (5 mL) to (2R,4R)-2-[(4S,5S)-3-acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-(3-hydroxy-3-methyl-butoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.11 g, 0.207 mmol). Stir 4 hours and evaporate to give the title compound as a foam (0.102 g, 100%).

reactant | hydrogen chloride | 4M | Cl | ClH
reactant | (2R,4R)-2-[(4S,5S)-3-acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-(3-hydroxy-3-methyl-butoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.207 mmol, 0.11 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)OCCC(C)(C)O)[C@@H]1[C@@H](N(C(O1)(C)C)C(C)=O)CC1=CC(=CC(=C1)F)F | C28H42F2N2O6
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | N-{(1S,2R)-1-(3,5-Difluoro-benzyl)-2-hydroxy-2-[(2R,4R)-4-(3-hydroxy-3-methyl-butoxy)-pyrrolidin-2-yl]-ethyl}-acetamide hydrochloride | 0.102 g, 100% | Cl.FC=1C=C(C[C@@H]([C@@H]([C@@H]2NC[C@@H](C2)OCCC(C)(C)O)O)NC(C)=O)C=C(C1)F | InChI=1S/C20H30F2N2O4.ClH/c1-12(25)24-18(8-13-6-14(21)9-15(22)7-13)19(26)17-10-16(11-23-17)28-5-4-20(2,3)27;/h6-7,9,16-19,23,26-27H,4-5,8,10-11H2,1-3H3,(H,24,25);1H/t16-,17-,18+,19-;/m1./s1
